US04410534
A mixture of 0.314 g. of isopropyl 3-(N-methyl-2-pyrroyl)-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate, 0.28 g. of potassium carbonate and 10 ml. of a (1:1) methanol-water mixture is refluxed under nitrogen atmosphere for 3 hours, cooled, and evaporated to dryness. The residue is taken up in 50 ml. of water and extracted with ethyl acetate (3×10 ml.). The aqueous solution is acidified with 10% hydrochloric acid and extracted with ethyl acetate (10×15 ml.). The combined extracts are washed with saturated sodium chloride solution dried with anhydrous sodium sulfate and evaporated to dryness under reduced pressure, to afford 3-(N-methyl-2-pyrroyl)-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylic acid, (XIVa, R=H, Q=CH3, n=2).

reactant | isopropyl 3-(N-methyl-2-pyrroyl)-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylate | CN1C(=CC=C1)C(=O)C1=CC=C2N1CCCC2C(=O)OC(C)C | C18H22N2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol water | CO.O
product | 3-(N-methyl-2-pyrroyl)-5,6,7,8-tetrahydropyrrolo[1,2-a]pyridine-8-carboxylic acid | CN1C(=CC=C1)C(=O)C1=CC=C2N1CCCC2C(=O)O | C15H16N2O3
